US04889553
N-(2,6-dichlorophenyl)-1-(4,6-dimethylpyrimidin-2-yl)-1,2,4-triazole-3-sulphonamide
N-(2,6-dichlorophenyl)-1,2,4-triazole-3-sulphonamide (2.051 g) was heated for 1 hour at 125° C. with 1.82 g of 2-p-toluenesulphonyl-4,6-dimethylpyrimidine in the presence of 1,8-diazabicyclo(5,4,0)undec-7-ene (2.128 g) in dimethylformamide (35 ml). After distillation of the solvent, the residue was poured into a mixture of water (80 ml) and 1N hydrochloric acid (20 ml), and was then filtered off. This crude product was chromatographed on silica gel using methylene chloride/methanol (95/5) as eluent, to give 2.2 g of the desired product, mp 274°-275° C.

reactant | N-(2,6-dichlorophenyl)-1,2,4-triazole-3-sulphonamide | 2.051 g | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NNC=N1 | C8H6Cl2N4O2S
reactant | 2-p-toluenesulphonyl-4,6-dimethylpyrimidine | 1.82 g | C1(=CC=C(C=C1)S(=O)(=O)C1=NC(=CC(=N1)C)C)C | C13H14N2O2S
reactant | 1,8-diazabicyclo(5,4,0)undec-7-ene | 2.128 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | N-(2,6-dichlorophenyl)-1-(4,6-dimethylpyrimidin-2-yl)-1,2,4-triazole-3-sulphonamide | 2.2 g | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN(C=N1)C1=NC(=CC(=N1)C)C | C14H12Cl2N6O2S
